US07144908B2
v) 3-(3-{4-[(6-{Benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione
A solution of 3-(3-{4-[(6-bromohexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione and 3-(3-{4-[(6-iodohexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione (3:1, 23.98 g) in acetonitrile (240 ml) and diisopropylethylamine (20 ml) was treated with (1R)-2-(benzylamino)-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol (18.22 g) and the mixture was heated to 50° C. for 5 days. The solvent was removed under reduced pressure, the residue was diluted with EtOAc (250 ml) and washed with water. The aqueous phase was re-extracted with EtOAc (75 ml) and the combined organic solutions were washed with brine, dried (MgSO4), and evaporated. The residue was purified by chromatography on flash silica gel eluting with dichloromethane-EtOAc (1:1) to give the title compound (17.25 g) LCMS RT=2.80 min

reactant | 3-(3-{4-[(6-bromohexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione | BrCCCCCCOCCC#CC=1C=C(C=CC1)N1C(NCC1=O)=O | C19H23BrN2O3
reactant | 3-(3-{4-[(6-iodohexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione | 23.98 g | ICCCCCCOCCC#CC=1C=C(C=CC1)N1C(NCC1=O)=O | C19H23IN2O3
reactant | (1R)-2-(benzylamino)-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 18.22 g | C(C1=CC=CC=C1)NC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C19H23NO3
solvent | acetonitrile | 240 ml | C(C)#N | C2H3N
solvent | diisopropylethylamine | 20 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 3-(3-{4-[(6-{Benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]but-1-ynyl}phenyl)imidazolidine-2,4-dione | 17.25 g | C(C1=CC=CC=C1)N(CCCCCCOCCC#CC=1C=C(C=CC1)N1C(NCC1=O)=O)C[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C38H45N3O6
